US04224242
A solution of 14.7 grams of 2,5-dimethylphenylisocyanate and 50 ml. of dichloromethane was added to a stirred, cooled solution of 35 g. N-isopropyl-1,3-diaminopropane and 400 ml. of dichloromethane. The temperature was kept between -5° and 0° C. during addition. Stirring was continued at room temperature for one hour. The solution was extracted with water, then with 200 ml. of 15% hydrochloric acid (v/v). The acid extract was made basic with saturated sodium carbonate solution and extracted with dichloromethane. The dichloromethane solution was dried over magnesium sulfate, then evaporated to dryness. The residue was dissolved in ether and saturated with hydrogen chloride. The solid was separated and recrystallized from EtOH/Et2O to obtain N-[3-(isopropylamino)propyl]-N'-(2,5-dimethylphenyl)urea, hydrochloride, m.p. 152°-154° C.

reactant | 2,5-dimethylphenylisocyanate | 14.7 grams | CC1=C(C=C(C=C1)C)N=C=O | C9H9NO
reactant | N-isopropyl-1,3-diaminopropane | C(C)(C)NCCCN | C6H16N2
reactant | dichloromethane | ClCCl | CH2Cl2
product | N-[3-(isopropylamino)propyl]-N'-(2,5-dimethylphenyl)urea, hydrochloride | Cl.C(C)(C)NCCCNC(=O)NC1=C(C=CC(=C1)C)C | InChI=1S/C15H25N3O.ClH/c1-11(2)16-8-5-9-17-15(19)18-14-10-12(3)6-7-13(14)4;/h6-7,10-11,16H,5,8-9H2,1-4H3,(H2,17,18,19);1H
